US08247401B2
Step D: 2′,4′-Difluoro-5-(1-hydroxy-1-methylethyl)biphenyl-3-carboxylic acid
To a solution of 3-bromo-5-(1-hydroxy-1-methylethyl)benzoic acid (150 mg, 0.579 mmol) in N,N-dimethylformamide (2.90 mL) and water (0.97 mL) was added (2,4-difluorophenyl)boronic acid (110 mg, 0.695 mmol), palladium(II) acetate (6.5 mg, 0.029 mmol), 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt (49.4 mg, 0.087 mmol) and diisopropylamine (0.206 mL, 1.45 mmol) and the mixture was heated to 80° C. After 3 h, filtration and purification by reverse phase chromatography (C-18, 90% water/acetonitrile→30% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (156 mg).

reactant | 3-bromo-5-(1-hydroxy-1-methylethyl)benzoic acid | 0.579 mmol, 150 mg | BrC=1C=C(C(=O)O)C=C(C1)C(C)(C)O | C10H11BrO3
reactant | (2,4-difluorophenyl)boronic acid | 0.695 mmol, 110 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt | 0.087 mmol, 49.4 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | diisopropylamine | 1.45 mmol, 0.206 mL | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 2.90 mL | CN(C=O)C | C3H7NO
solvent | water | 0.97 mL | O | H2O
catalyst | palladium(II) acetate | 0.029 mmol, 6.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2′,4′-Difluoro-5-(1-hydroxy-1-methylethyl)biphenyl-3-carboxylic acid | 156 mg | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)C(C)(C)O)C(=O)O | C16H14F2O3
